US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(3-fluoro-4-methoxyphenyl)imidazolidin-2-one
The compound was synthesized starting from 5-aminobenzimidazole (0.585 g, 4.4 mmol), 3-fluoro-4-methoxybenzaldehyde (0.617 g, 4 mmol), TMSCN (0.5 mL, 4 mmol), PdC (10%, 0.02 g), TEA (0.524 mL, 3.76 mmol), di-(imidazol-1-yl)methanone (0.333 g, 2.05 mmol) as described in method 2. The product was purified by means of FPLC.

reactant | 5-aminobenzimidazole | 4.4 mmol, 0.585 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | 3-fluoro-4-methoxybenzaldehyde | 4 mmol, 0.617 g | FC=1C=C(C=O)C=CC1OC | C8H7FO2
reactant | TMSCN | 4 mmol, 0.5 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | di-(imidazol-1-yl)methanone | 2.05 mmol, 0.333 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(3-fluoro-4-methoxyphenyl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC(=C(C=C2)OC)F)=O | C17H15FN4O2
